US08350044B2
Preparation of 2,4-dichloro-thiazole-5-carbonyl-azide
To a solution of 2,4-dichloro-thiazole-5-carboxylic acid (1.98 g, 10 mmol) in toluene (50 mL) was added Et3N (1.01 g, 10 mmol) followed by diphenyl phosphoryl azide (2.75 g, 10 mmol). The reaction mixture was stirred at room temperature for 20 h. The reaction mixture was concentrated in vacuo and purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to afford product as a brown solid (1.82 g, 82%): 13C NMR (75 MHz, CDCl3) δ 163.33, 156.83, 143.94, 124.02.

reactant | 2,4-dichloro-thiazole-5-carboxylic acid | 10 mmol, 1.98 g | ClC=1SC(=C(N1)Cl)C(=O)O | C4HCl2NO2S
reactant | Et3N | 10 mmol, 1.01 g | CCN(CC)CC | C6H15N
reactant | diphenyl phosphoryl azide | 10 mmol, 2.75 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-thiazole-5-carbonyl-azide | 1.82 g, 82% | ClC=1SC(=C(N1)Cl)C(=O)N=[N+]=[N-] | C4Cl2N4OS
